datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[Si:11](C)([H:10])[CH2:62][Ge:63](C)(C)C>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1.C[Si+:11](C)[CH2:62][Ge:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.C[O:14][C:13]1=[CH:12][CH:11]=[CH:10][CH:62]=[CH:61]1>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[CH:10]2[CH:11]=[CH:12][C:13](=[O+:14]C)[CH:61]=[CH:62]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.C[S:11](C)=[CH:10][C:61](C1=CC=CC=C1)=[O:62]>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH:10]([S+:11](C)C)[C:61](C2=CC=CC=C2)=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH:11](CC)[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1.CCCC[Sn:63](CCCC)(CCCC)[CH2:62][CH+:11]CC 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32].C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([H:10])[C:31]1=[O:32].C[Sn:63](C)(C)[CH2:62][CH+:11][C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.CC[N:72](CC)[C:61]([CH-:10][C:81](C)=[O:82])=[O:62]>>CC[N:72](CC)[C:61]([CH:10]([CH:20]1CCCC[C:22]([O-:23])=[CH:21]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[N:12](C)[C:11](=[N:10]CC1=CC=CC=C1)[N:62](C)C>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([N:10](CC2=CC=CC=C2)[C:11](=[N+:12](C)C)[N:62](C)C)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
"C[C:61]#[N:10].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[C:61]#[N+:10][S:20]C(F)F 10=20;20,21=21,22;22,23=23"
C1CC[N:72]([C:61]([S-:10])=[S:62])C1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C1CC[N:72]([C:61]([S:10][CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[S:62])C1 10=20
C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.Cl[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1>>C[C:34]1=[C:33](F)[CH:32]=[C:31]([CH:20]([S:10][C:61]2=[CH:62][C:63](Cl)=[CH:64][CH:73]=[CH:72]2)[C:41]2=[CH:42][C:43](F)=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"COC12C3C[CH:20]4C5C1[Fe-2:21]3524(C#[O+])(C#[O+])C#[O+].C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](C)=[CH:72]2>>COC12C3C[CH:20]([CH:10]4[C:11](C)=[NH+:12][C:62]5=[C:61]4[CH:72]=[C:73](C)[CH:64]=[CH:63]5)C4C1[Fe-3:21]342(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([Si:63](C2=CC=CC=C2)(C2=CC=CC=C2)[O:12][C:11]2=[CH:10]CC[O:72]2)C=C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([CH:10]1CC[O:72][C:11]1=[O+:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([N+:10]1=[C:61]2[N:62](CC[C@@H]1C(C)(C)C)C1=C(C=CC=C1)[S:72]2)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CO/[C:10](C1=CC=CC=C1)=[C:11]1\[N:12](C)[C:64](C)=[C:63](C)[S:62]1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C)[C:64](C)=[C:63](C)[S:62]1)[C:20]1([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20;12=11,12"
"C=C(C)CCC[C:11](C)=[CH2:10].N#C[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>C=C(C)CCC[C+:11](C)[CH2:10][CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
